US07468457B2
a. Preparation of 1-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)ethanone
2 g (5.1 mmol) of methyl 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarboxylate (Example 1,d) are dissolved in 30 mL of THF, 15 mL of methanol and 2 mL of water. 320 mg (7.7 mmol) of lithium hydroxide hydrate are added and the reaction medium is refluxed for 5 hours and then cooled. The medium is neutralized with a 1 N hydrochloric acid solution and the medium is then extracted with ethyl ether. A white powder is obtained (m.p.=196° C.), which is dissolved in 10 mL of ethyl ether and 5 mL of THF. The medium is cooled to −78° C., and 11 mL (11 mmol) of 1 N methyllithium solution are then added dropwise. The medium is stirred at this temperature for 3 hours and is then treated with 5 mL of trimethylsilyl chloride. The medium is hydrolysed with a saturated ammonium chloride solution and then extracted with ethyl ether. The residue obtained is purified by chromatography (eluent: 9 heptane/1 ethyl acetate). A yellow crystalline solid is obtained (m=1.1 g; yield=60%; m.p.=104° C.).

reactant | methyl 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarboxylate | 5.1 mmol, 2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(=O)OC)C(C)(C)C | C26H28O3
reactant | lithium hydroxide hydrate | 7.7 mmol, 320 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methyllithium | 11 mmol, 1 N, 11 mL | C[Li]
reactant | trimethylsilyl chloride | 5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 1-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)ethanone | yield=60% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(C)=O)C(C)(C)C | C26H28O2
